US05872137
To a mixture of 0.6 g of 3-ethyl-4-[3-(4-trifluoromethoxyphenoxy)propyloxy]-5-methylphenol, 0.22 g of potassium carbonate and 10 ml of N,N-dimethylformamide was added dropwise a solution of 0.31 g of 1,1,3-trichloro-1-propene dissolved in 5 ml of N,N-dimethylformamide, while stirring at room temperature. After stirring at room temperature for 12 hours, the reaction mixture was poured into ice-water, and extracted twice with 100 ml of diethyl ether. The combined ether layer was washed with water, dried with anhydrous magnesium sulfate, and concentrated to obtain a crude product. The crude product was subjected to silica gel chromatography, which afforded 0.5 g of 3-ethyl-4-[3-(4-trifluoromethoxyphenoxy)propyloxy]-5-methyl-1-(3,3-dichloro-2-propenyloxy)benzene (71% yield), nD23.5 1.5150.

reactant | 3-ethyl-4-[3-(4-trifluoromethoxyphenoxy)propyloxy]-5-methylphenol | 0.6 g | C(C)C=1C=C(C=C(C1OCCCOC1=CC=C(C=C1)OC(F)(F)F)C)O | C19H21F3O4
reactant | potassium carbonate | 0.22 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,1,3-trichloro-1-propene | 0.31 g | ClC(=CCCl)Cl | C3H3Cl3
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-ethyl-4-[3-(4-trifluoromethoxyphenoxy)propyloxy]-5-methyl-1-(3,3-dichloro-2-propenyloxy)benzene | 0.5 g, 71% yield | C(C)C=1C=C(C=C(C1OCCCOC1=CC=C(C=C1)OC(F)(F)F)C)OCC=C(Cl)Cl | C22H23Cl2F3O4
